US06124281
7-Chloro-3-(morpholinocarbonyl)pyrazolo[3,4-c][1]-benzazepine-4,10(1H,9H)-dione
Morpholine (268 μL, 3.06 mmol) was added to a solution of trimethylaluminum in toluene (1.56 mL, 3.13 mmol) and the solution was stirred for 20 minutes. A portion (365 μL) of the resulting solution was added to a solution of 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione (100 mg, 0.313 mmol) in toluene (0.760 mL). The resulting solution was stirred for 4 hours at room temperature and then quenched with aqueous hydrochloric acid (1.88 mL, 1N) and water (50 mL). The aqueous layer was extracted with chloroforrn (7×50 mL) and ethyl acetate (3×50 mL). The combined organic layers were concentrated on a rotary evaporator. The crude product was purified by flash chromatography eluting with chloroform:2-propanol (99:1-80:20) to give the title compound (89.9 mg, 80% yield, m.p. 347° C.).

reactant | Morpholine | 3.06 mmol, 268 μL | N1CCOCC1 | C4H9NO
reactant | trimethylaluminum | C[Al](C)C
reactant | 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione | 0.313 mmol, 100 mg | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(=O)OCC)=O)C=C1 | C14H10ClN3O4
solvent | toluene | 0.760 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.13 mmol, 1.56 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-3-(morpholinocarbonyl)pyrazolo[3,4-c][1]-benzazepine-4,10(1H,9H)-dione | 89.9 mg, 80% yield | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(=O)N3CCOCC3)=O)C=C1 | C16H13ClN4O4
